US08710245B2
(e) Synthesis of 4,5-dihydro-4-(nitromethyl)cyclopenta[b]thiophen-6-one
To a solution of 4-nitro-3-(thiophen-3-yl)butanoic acid (3.4 g, 15.9 mmol) in DCE (20 mL) was added PPA (20 g) and the resulting mixture was refluxed overnight. After concentration, the reaction mixture was treated with solid NaOH, followed by addition of water. After stirring for 30 minutes, the mixture was extracted with DCM. The DCM extract was washed with brine and dried over anhydrous Na2SO4. After filtration and concentration, the crude product was purified by column chromatography to give the title compound (2.3 g, 74%).

reactant | 4-nitro-3-(thiophen-3-yl)butanoic acid | 15.9 mmol, 3.4 g | [N+](=O)([O-])CC(CC(=O)O)C1=CSC=C1 | C8H9NO4S
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
product | 4,5-dihydro-4-(nitromethyl)cyclopenta[b]thiophen-6-one | 2.3 g, 74% | [N+](=O)([O-])CC1CC(C=2SC=CC21)=O | C8H7NO3S
